US04518779
To a stirred solution of ethylamine (100 ml) in methanol (250 ml) maintained under nitrogen and cooled in an ice bath was added portionwise 1-chloromethyl-3,4-dihydro-4-phenylisoquinoline (10.0 g, 0.033 m) and the mixture heated to 50°-52° C. for 2 hours. After cooling, the solution was poured into a pressure bottle and hydrogenated on a Parr apparatus over 10% Pd/C catalyst (2.0 g) at 40 psi for 1 hour. The catalyst was removed by filtration and the solvent evaporated to a gummy residue. This residue was dissolved in methanol (50 ml) and isopropanol (50 ml) and acidified with HCl gas. Upon cooling and standing, a white solid crystallized which was collected by filtration. Recrystallization from methanol/isopropanol/water and vacuum drying gave 7.6 g of the major isomer of 1,2,3,4-tetrahydro-1-(ethylamino)methyl-4-phenylisoquinoline dihydrochloride, m.p. 241°-242°.

reactant | ethylamine | 100 ml | C(C)N | C2H7N
reactant | 1-chloromethyl-3,4-dihydro-4-phenylisoquinoline | 10.0 g | ClCC1=NCC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14ClN
solvent | methanol | 250 ml | CO | CH4O
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 1,2,3,4-tetrahydro-1-(ethylamino)methyl-4-phenylisoquinoline dihydrochloride | Cl.Cl.C(C)NCC1NCC(C2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C18H22N2.2ClH/c1-2-19-13-18-16-11-7-6-10-15(16)17(12-20-18)14-8-4-3-5-9-14;;/h3-11,17-20H,2,12-13H2,1H3;2*1H
